US04209621
2-Hydrazino-4-(m-trifluoromethylphenyl)pyrimidine
A solution of 6.0 g. of 2-methylsulfonyl-4-(m-trifluoromethylphenyl)pyrimidine in 75 ml. of absolute ethanol is treated with 1.9 g. of 95% hydrazine and is refluxed for 8 hours. Isolation as in the previous example gives the desired compound, m.p. 103°-106° C.; resolidifies and melts at 120°-122° C.

reactant | 2-methylsulfonyl-4-(m-trifluoromethylphenyl)pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)C1=CC(=CC=C1)C(F)(F)F | C12H9F3N2O2S
reactant | hydrazine | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 2-Hydrazino-4-(m-trifluoromethylphenyl)pyrimidine | N(N)C1=NC=CC(=N1)C1=CC(=CC=C1)C(F)(F)F | C11H9F3N4
